US07790709B2
Preparation of (S)-(E)-3-(10-Oxo-2,3,4,9,10,10a-hexahydro-1H-3a,8,9-triaza-benzo[f]azulen-6-yl)acrylic acid hydrochloride
A solution of (S)-(E)-3-(10-oxo-2,3,4,9,10,10a-hexahydro-1H-3a,8,9-triaza-benzo[f]azulen-6-yl)acrylic acid tert-butyl ester (0.65 g, 1.97 mmol) in CH2Cl2 (7 mL) was treated with TFA (7 mL). After stirring at room temperature for 30 min, the clear tan solution was concentrated in vacuo. The resulting oil was treated with anhydrous dioxane (20 mL of a 4.0 M solution in dioxane, 80 mmol). The resulting mixture was sonicated for 5 min, stirred under N2 for 5 min and diluted with Et2O. The solid was isolated by filtration, suspended in Et2O, concentrated to dryness, and dried under vacuum overnight to give the title compound (0.60 g, 88%) as an off-white solid: MS (ESI) m/e 274 (M+H)+.

reactant | (S)-(E)-3-(10-oxo-2,3,4,9,10,10a-hexahydro-1H-3a,8,9-triaza-benzo[f]azulen-6-yl)acrylic acid tert-butyl ester | 1.97 mmol, 0.65 g | C(C)(C)(C)OC(\C=C\C=1C=NC2=C(CN3CCC[C@H]3C(N2)=O)C1)=O | C18H23N3O3
reactant | TFA | 7 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | CCOCC | C4H10O
product | (S)-(E)-3-(10-Oxo-2,3,4,9,10,10a-hexahydro-1H-3a,8,9-triaza-benzo[f]azulen-6-yl)acrylic acid hydrochloride | 0.60 g, 88% | Cl.O=C1NC2=C(CN3CCC[C@@H]13)C=C(C=N2)/C=C/C(=O)O | InChI=1S/C14H15N3O3.ClH/c18-12(19)4-3-9-6-10-8-17-5-1-2-11(17)14(20)16-13(10)15-7-9;/h3-4,6-7,11H,1-2,5,8H2,(H,18,19)(H,15,16,20);1H/b4-3+;/t11-;/m0./s1
